* baseline strain direction
.include bsim4_pmos.subckt
Valp alpha 0 dc 0.0
Veps eps_s 0 dc 0.005
Vdd d 0 dc -1.0
Vgs g 0 dc -0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xdev d g s b bsim4_pmos W=10u L=180n
.dc Valp 0.0 1.5707963267948966 0.09817477042468103
.print dc v(eps_s) v(alpha) i(Vdd)
.end
